US07897766B2
N-[(4s)-1-Azatricyclo[3.3.1.13,7]dec-4-yl]-3-hydroxybenzamide
Prepared from (4s)-1-azatricyclo[3.3.1.13,7]dec-4-ylamine and 3-hydroxybenzoic acid (Aldrich) according to method B; 1H NMR (500 MHz, methanol-d4) δ 1.96 (s, 3H), 2.12 (s, 1H), 2.29 (d, J=14 Hz, 2H), 2.38 (s, 2H), 3.49 (s, 2H), 3.59 (s, 3H), 3.74-3.91 (m, 1H), 4.36 (s, 1H), 6.90-7.06 (m, 1H), 7.18-7.25 (m, J=2 Hz, 1H), 7.24-7.31 (m, 2H); MS (APCI/NH3) m/z 273 (M+H)+.

reactant | (4s)-1-azatricyclo[3.3.1.13,7]dec-4-ylamine | N12CC3[C@@H](C(CC(C1)C3)C2)N | C9H16N2
reactant | 3-hydroxybenzoic acid | OC=1C=C(C(=O)O)C=CC1 | C7H6O3
reactant | NH3 | N | H3N
product | N-[(4s)-1-Azatricyclo[3.3.1.13,7]dec-4-yl]-3-hydroxybenzamide | N12CC3[C@@H](C(CC(C1)C3)C2)NC(C2=CC(=CC=C2)O)=O | C16H20N2O2
